US05589478
To a solution of 5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidine-4-amine (102 mg) in tetrahydrofuran (2 ml) is added sodium hydride (60% dispersion-type, 34 mg), and thereto is added 4-tert-butylbenzenesulfonyl chloride (198 mg). The mixture is stirred at room temperature for 20 minutes, and thereto are added a drop of pyridine and water. The mixture is stirred at room temperature for 30 minutes, and neutralized with saturated aqueous ammonium chloride solution. The mixture is extracted with ethyl acetate, and the ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by preparative thin layer chromatography (solvent; chloroform/methanol=15:1), and recrystallized from hexane/ethyl acetate to give N-{5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide (135 mg). The physical properties thereof are the same as those of the compound obtained in Reference Example 16-(4).

reactant | 5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidine-4-amine | 102 mg | BrC=1C(=NC=NC1OCCOC1=NC=C(C=N1)SC)N | C11H12BrN5O2S
reactant | sodium hydride | 34 mg | [H-].[Na+]
reactant | 4-tert-butylbenzenesulfonyl chloride | 198 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{5-bromo-6-[2-(5-methylthiopyrimidin-2-yloxy)ethoxy]pyrimidin-4-yl}-4-tert-butylbenzenesulfonamide | 135 mg | BrC=1C(=NC=NC1OCCOC1=NC=C(C=N1)SC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C21H24BrN5O4S2
